US07060850B2
Preparation of 3-(perfluorooctyl)propionyl Azide:
Sodium azide (6.0 g) was put in a 250 mL round-bottom flask (2-neck) equipped with a thermometer. H2O (20 mL) was added to dissolve sodium azide. It was cooled on an ice-water bath. A solution of 3-(perfluorooctyl)propionyl chloride (12.9 g) in acetone (25 mL) was added dropwise to keep the temperature below 12° C. The mixture was vigorously stirred for 2 h. Dimethyl ether (100 mL) and water (100 mL) are added, and the mixture was vigorously stirred for 1 min. After the separation of two layers, the aqueous layer was extracted with ether (2×50 mL). The ether layers were combined, and are washed with water (3×100 mL) and brine. After drying over MgSO4, the solvent was removed under vacuum to give a mixture of white solid and liquid (12.0 g) that was immediately used for the next reaction.

reactant | Sodium azide | 6.0 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | 20 mL | O | H2O
reactant | 3-(perfluorooctyl)propionyl chloride | 12.9 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCC(=O)Cl)F | C11H4ClF17O
reactant | Dimethyl ether | 100 mL | COC | C2H6O
reactant | water | 100 mL | O | H2O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-(perfluorooctyl)propionyl Azide | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(CCC(=O)N=[N+]=[N-])F | C11H4F17N3O
